US04177247
To 16.6 g. (132 mm.) of sodium sulfite was added 100 ml. of methanol, and then a solution of sulfur dioxide (8.3 g., 130 mm.) in methanol with stirring at room temperature. After stirring for one hour, the reaction mixture was allowed to stand still and after 24 hours, the supernatant portion was removed and thereby, a methanol suspension containing 0.89 moles/l. of sodium pyrosulfite was obtained.

reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sulfur dioxide | 8.3 g | S(=O)=O | O2S
solvent | methanol | CO | CH4O
product | sodium pyrosulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+] | InChI=1S/2Na.H2O5S2/c;;1-6(2)7(3,4)5/h;;(H,1,2)(H,3,4,5)/q2*+1;/p-2
